Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
R hip pain
 
Major Surgical or Invasive Procedure:
R hip hemi arthroplasty

 
History of Present Illness:
Ms. ___ is a pleasant ___
female who has had right hip pain for the past several months. 
She was last seen by Dr. ___ in ___.  This was worked 
up
including x-rays, which were reportedly normal and then she
subsequently had an MRI of her lumbar spine, which also showed 
no
significant abnormalities other than some mild stenosis.  She
then was overseas in ___ and came back to see Dr. ___ this week and continue to have pain in her right hip.  She
reports having an x-ray in ___ in ___ that showed a
femoral neck fracture.  Dr. ___ x-rays today, 
which
confirmed displaced femoral neck fracture of the right hip.  She
is now here to see me for management.
 
Past Medical History:
1.  Diabetes mellitus type 2.
2.  Hypertension.
3.  No history of malignancy.
 
Social History:
___
Family History:
n/c
 
Physical Exam:
 On examination today, a pleasant female.  She is alert
and oriented and answering questions appropriately through her
daughter who is interpreting today.  She is seated in a
wheelchair and could not fully ambulate.
MUSCULOSKELETAL:  On examination of her right hip, she has pain
with log rolling and any internal or external rotation at the
hip.  Distally, she is neurovascularly intact.  Her knee is
nontender.

 
Pertinent Results:
___ 12:50PM BLOOD Calcium-8.9 Phos-2.9 Mg-1.6
___ 12:50PM BLOOD Glucose-134* UreaN-21* Creat-1.5* Na-142 
K-3.9 Cl-110* HCO3-22 AnGap-14
___ 06:15AM BLOOD Glucose-143* UreaN-24* Creat-1.6* Na-138 
K-4.5 Cl-106 HCO3-24 AnGap-13
___ 06:20AM BLOOD Glucose-174* UreaN-30* Creat-2.1* Na-136 
K-4.4 Cl-106 HCO3-22 AnGap-12
___ 12:50PM BLOOD Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:20AM BLOOD Plt ___
___ 12:50PM BLOOD WBC-7.3 RBC-2.91* Hgb-9.1* Hct-27.4* 
MCV-94 MCH-31.2 MCHC-33.0 RDW-13.1 Plt ___
___ 06:15AM BLOOD WBC-8.4 RBC-2.42* Hgb-7.4* Hct-23.0* 
MCV-95 MCH-30.5 MCHC-32.1 RDW-12.8 Plt ___
___ 08:20PM BLOOD Hct-29.8*#
___ 06:20AM BLOOD WBC-11.4* RBC-3.16*# Hgb-9.5*# Hct-29.5* 
MCV-93 MCH-30.0 MCHC-32.1 RDW-14.5 Plt ___
 
Brief Hospital Course:
The patient presented to the hospital and was evaluated by the 
orthopedic surgery team. The patient was found to have R hip 
fracture and was admitted to the orthopedic surgery service.  
The patient was taken to the operating room on ___ for R hip 
hemiarthroplasty which the patient tolerated well (for full 
details please see the separately dictated operative report). 
The patient was taken from the OR to the PACU in stable 
condition and after recovery from anesthesia was transferred to 
the floor.  The patient was initially given IV fluids and IV 
pain medications, and progressed to a regular diet and oral 
medications by POD#1. The patient was given perioperative 
antibiotics and anticoagulation per routine.  The patients home 
medications were continued throughout this hospitalization.  The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. The ___ hospital course was otherwise 
unremarkable.

At the time of discharge the patient was afebrile with stable 
vital signs that were within normal limits, pain was well 
controlled with oral medications, incisions were 
clean/dry/intact, and the patient was voiding/moving bowels 
spontaneously. The patient is WBAT in the RLE extremity, and 
will be discharged on LVX for DVT prophylaxis.  The patient will 
follow up in two weeks per routine. A thorough discussion was 
had with the patient regarding the diagnosis and expected 
post-discharge course, and all questions were answered prior to 
discharge.
 
Medications on Admission:
Fluticasone Propionate NASAL 1 SPRY NU DAILY 
GlipiZIDE XL 5 mg PO DAILY 
Hydrochlorothiazide 25 mg PO DAILY 
Lisinopril 20 mg PO DAILY 
Omeprazole 20 mg PO DAILY 
Pioglitazone 30 mg PO DAILY 
Simvastatin 20 mg PO DAILY 
Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Docusate Sodium 100 mg PO BID 
3. Enoxaparin Sodium 30 mg SC Q24H Duration: 14 Days 
4. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
5. GlipiZIDE XL 5 mg PO DAILY 
6. Hydrochlorothiazide 25 mg PO DAILY 
7. Lisinopril 20 mg PO DAILY 
8. Omeprazole 20 mg PO DAILY 
9. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN Pain 
10. Pioglitazone 30 mg PO DAILY 
11. Simvastatin 20 mg PO DAILY 
12. Vitamin D 50,000 UNIT PO 1X/WEEK (TH) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
R hip fracture

 
Discharge Condition:
stable

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- WBAT
Physical Therapy:
WBAT
Treatments Frequency:
Please have staples removed on first postoperative vist and 
change dressings daily
 
Followup Instructions:
___